### PR TITLE
[Merged by Bors] - feat port: Logic.Equiv.Set

### PR DESCRIPTION
**Pull request by ChrisHughes24**
aba57d4d3dae35460225919dcd82fe91355162f9

### CODE REVIEW

File: Mathlib/Logic/Equiv/Set.lean [hunk 1]
```diff
@@ -0,0 +1,715 @@
...
+#align equiv.preimage_eq_iff_eq_image Equiv.preimage_eq_iff_eq_image
+
+theorem eq_preimage_iff_image_eq {α β} (e : α ≃ β) (s t) : s = e ⁻¹' t ↔ e '' s = t :=
+  Set.eq_preimage_iff_image_eq e.bijective
+#align equiv.eq_preimage_iff_image_eq Equiv.eq_preimage_iff_image_eq
+
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
```
Comment (j-loreaux) [inline Mathlib/Logic/Equiv/Set.lean:143]:
```suggestion
```

File: Mathlib/Logic/Equiv/Set.lean [hunk 2]
```diff
@@ -0,0 +1,715 @@
...
+theorem prod_assoc_preimage {α β γ} {s : Set α} {t : Set β} {u : Set γ} :
+    Equiv.prodAssoc α β γ ⁻¹' s ×ˢ t ×ˢ u = (s ×ˢ t) ×ˢ u := by
+  ext
+  simp [and_assoc]
+#align equiv.prod_assoc_preimage Equiv.prod_assoc_preimage
+
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
```
Comment (j-loreaux) [inline Mathlib/Logic/Equiv/Set.lean:154]:
```suggestion
```

File: Mathlib/Logic/Equiv/Set.lean [hunk 3]
```diff
@@ -0,0 +1,715 @@
...
+theorem prod_assoc_symm_preimage {α β γ} {s : Set α} {t : Set β} {u : Set γ} :
+    (Equiv.prodAssoc α β γ).symm ⁻¹' (s ×ˢ t) ×ˢ u = s ×ˢ t ×ˢ u := by
+  ext
+  simp [and_assoc]
+#align equiv.prod_assoc_symm_preimage Equiv.prod_assoc_symm_preimage
+
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
```
Comment (j-loreaux) [inline Mathlib/Logic/Equiv/Set.lean:165]:
```suggestion
```

File: Mathlib/Logic/Equiv/Set.lean [hunk 4]
```diff
@@ -0,0 +1,715 @@
...
+-- into a lambda expression and then unfold it.
+theorem prod_assoc_image {α β γ} {s : Set α} {t : Set β} {u : Set γ} :
+    Equiv.prodAssoc α β γ '' (s ×ˢ t) ×ˢ u = s ×ˢ t ×ˢ u := by
+  simpa only [Equiv.image_eq_preimage] using prod_assoc_symm_preimage
+#align equiv.prod_assoc_image Equiv.prod_assoc_image
+
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
```
Comment (j-loreaux) [inline Mathlib/Logic/Equiv/Set.lean:176]:
```suggestion
```

File: Mathlib/Logic/Equiv/Set.lean [hunk 5]
```diff
@@ -0,0 +1,715 @@
...
+  (Equiv.Set.insert H).apply_eq_iff_eq_symm_apply.2 rfl
+#align equiv.set.insert_apply_left Equiv.Set.insert_apply_left
+
+@[simp]
+theorem insert_apply_right {α} {s : Set.{u} α} [DecidablePred (· ∈ s)] {a : α} (H : a ∉ s) (b : s) :
+    Equiv.Set.insert H ⟨b, Or.inr b.2⟩ = Sum.inl b :=
+  (Equiv.Set.insert H).apply_eq_iff_eq_symm_apply.2 rfl
+#align equiv.set.insert_apply_right Equiv.Set.insert_apply_right
+
+/-- If `s : set α` is a set with decidable membership, then `s ⊕ sᶜ` is equivalent to `α`. -/
```
Comment (j-loreaux) [inline Mathlib/Logic/Equiv/Set.lean:329]:
```suggestion
/-- If `s : Set α` is a set with decidable membership, then `s ⊕ sᶜ` is equivalent to `α`. -/
```

File: Mathlib/Logic/Equiv/Set.lean [hunk 6]
```diff
@@ -0,0 +1,715 @@
...
+      simp only [Set.sumCompl_symm_apply_of_not_mem hx, Sum.map_inr, subtypeEquiv_apply,
+        Set.sumCompl_apply_inr, trans_apply, sumCongr_apply, Subtype.coe_mk, Trans.trans]
+  right_inv e :=
+    Equiv.ext fun x => by
+      simp only [Sum.map_inr, subtypeEquiv_apply, Set.sumCompl_apply_inr, Function.comp_apply,
+        sumCongr_apply, Equiv.coe_trans, Subtype.coe_eta, Subtype.coe_mk, Trans.trans,
+        Set.sumCompl_symm_apply_compl]
+#align equiv.set.compl Equiv.Set.compl
+
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
```
Comment (j-loreaux) [inline Mathlib/Logic/Equiv/Set.lean:479]:
```suggestion
```

File: Mathlib/Logic/Equiv/Set.lean [hunk 7]
```diff
@@ -0,0 +1,715 @@
...
+/-- The set product of two sets is equivalent to the type product of their coercions to types. -/
+protected def prod {α β} (s : Set α) (t : Set β) : ↥(s ×ˢ t) ≃ s × t :=
+  @subtypeProdEquivProd α β s t
+#align equiv.set.prod Equiv.Set.prod
+
+/-- The set `set.pi set.univ s` is equivalent to `Π a, s a`. -/
```
Comment (j-loreaux) [inline Mathlib/Logic/Equiv/Set.lean:485]:
```suggestion
/-- The set `Set.pi Set.univ s` is equivalent to `Π a, s a`. -/
```

File: Mathlib/Logic/Equiv/Set.lean [hunk 8]
```diff
@@ -0,0 +1,715 @@
...
+  ⟨fun s => e '' s, fun t => e.symm '' t, symm_image_image e, symm_image_image e.symm⟩
+#align equiv.set.congr Equiv.Set.congr
+
+/-- The set `{x ∈ s | t x}` is equivalent to the set of `x : s` such that `t x`. -/
+protected def sep {α : Type u} (s : Set α) (t : α → Prop) :
+    ({ x ∈ s | t x } : Set α) ≃ { x : s | t x } :=
+  (Equiv.subtypeSubtypeEquivSubtypeInter s t).symm
+#align equiv.set.sep Equiv.Set.sep
+
+/-- The set `𝒫 S := {x | x ⊆ S}` is equivalent to the type `set S`. -/
```
Comment (j-loreaux) [inline Mathlib/Logic/Equiv/Set.lean:543]:
```suggestion
/-- The set `𝒫 S := {x | x ⊆ S}` is equivalent to the type `Set S`. -/
```

File: Mathlib/Logic/Equiv/Set.lean [hunk 9]
```diff
@@ -0,0 +1,715 @@
...
+  ext
+  simp
+#align equiv.of_left_inverse'_eq_of_injective Equiv.ofLeftInverse'_eq_ofInjective
+
+protected theorem set_forall_iff {α β} (e : α ≃ β) {p : Set α → Prop} :
+    (∀ a, p a) ↔ ∀ a, p (e ⁻¹' a) :=
+  e.injective.preimage_surjective.forall
+#align equiv.set_forall_iff Equiv.set_forall_iff
+
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
```
Comment (j-loreaux) [inline Mathlib/Logic/Equiv/Set.lean:651]:
```suggestion
```

**Review by j-loreaux — APPROVED** [review]
Looks good to me. All these changes are very minor.
